US05672715
A solution of 10 g of 4-bromo-3-(2,5-difluorophenyl)-1-methyl-5-(trifluoromethyl)-1H-pyrazole in 250 mL anhydrous THF was cooled to -78° C. and stirred with an overhead stirrer. The cold solution was treated with 12 mL of 2.5M n-butyllithium in hexanes never allowing the temperature to exceed -70° C. After stirring for 5 minutes, 1.9 mL of methyl iodide was added quickly. The cooling bath was removed and the solution allowed to warm to room temperature. The solution was diluted with diethyl ether and the combined organic extracts were washed twice with brine, dried over anhydrous magnesium sulfate and concd in vacuo. Chromatographic purification (silica, 5% ethyl acetate in hexanes) gave 5.8 g (72.4%) of 3-(2,5-difluorophenyl)-1,4-dimethyl-5-(trifluoromethyl)-1H-pyrazole as an oil; 1HNMR (CDCl3) δ 2.0 (quintet, 3H, J=2.1 Hz), 3.9 (d, 3H, J=1.2 Hz), 6.9-7.1 (m, 3H). Anal. Calcd for C13H9F5N2: C, 52.18; H, 3.28; N, 10.14. Found: C, 52.20; H, 3.30; N, 10.11.

reactant | 4-bromo-3-(2,5-difluorophenyl)-1-methyl-5-(trifluoromethyl)-1H-pyrazole | 10 g | BrC=1C(=NN(C1C(F)(F)F)C)C1=C(C=CC(=C1)F)F | C11H6BrF5N2
reactant | n-butyllithium | 2.5M, 12 mL | C(CCC)[Li]
reactant | methyl iodide | 1.9 mL | CI | CH3I
solvent | THF | 250 mL | C1CCOC1 | C4H8O
product | 3-(2,5-difluorophenyl)-1,4-dimethyl-5-(trifluoromethyl)-1H-pyrazole | 5.8 g, 72.4% | FC1=C(C=C(C=C1)F)C1=NN(C(=C1C)C(F)(F)F)C | C12H9F5N2
